US04010177
In the manner given in Preparation 29, 8-bromo-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine is treated with ethyl(cyclopropylmethyl)amine to give 8-bromo-1-[[(cyclopropylmethyl)ethylamino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 32 8-(Trifluoromethyl)-1-[[(cyclopropylmethyl)methylamino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-bromo-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12BrClN4
reactant | ethyl(cyclopropylmethyl)amine | C(C)NCC1CC1 | C6H13N
product | 8-bromo-1-[[(cyclopropylmethyl)ethylamino]methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(CC)CC3CC3)C3=CC=CC=C3)C1 | C23H24BrN5
